US09034866B2
Synthesis of (±)-9-fluoro-10-(3-(5-fluoropyrimidin-2-yl)-3-hydroxybut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-(5-fluoropyrimidin-2-yl)but-3-yn-2-ol to give the titled compound as a brown solid (3.5 mg, 1%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 2-(5-fluoropyrimidin-2-yl)but-3-yn-2-ol | FC=1C=NC(=NC1)C(C)(C#C)O | C8H7FN2O
product | (±)-9-fluoro-10-(3-(5-fluoropyrimidin-2-yl)-3-hydroxybut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 3.5 mg, 1% | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(O)C1=NC=C(C=N1)F | C20H15F2N5O3
